US08304036B2
2.30 g (6.22 mmol) of 2-(4-ethoxy-2,3-difluorophenyl)-5-but-1-enylselenophene are hydrogenated in 70 ml of ethyl acetate, in the presence of Pd/C (5% of Pd) at atmospheric pressure and RT. The reaction soln. is filtered and concentrated to dryness, and the crude product is purified by recrystallisation from n-heptane. 2-(4-Ethoxy-2,3-difluorophenyl)-5-butylselenophene is obtained as a colourless solid (m.p. 47° C.).

reactant | 2-(4-ethoxy-2,3-difluorophenyl)-5-but-1-enylselenophene | 6.22 mmol, 2.30 g | C(C)OC1=C(C(=C(C=C1)C=1[Se]C(=CC1)C=CCC)F)F | C16H16F2OSe
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-(4-Ethoxy-2,3-difluorophenyl)-5-butylselenophene | C(C)OC1=C(C(=C(C=C1)C=1[Se]C(=CC1)CCCC)F)F | C16H18F2OSe
